US08623898B2
N-(3-Bromo-4-fluorobenzyl)-1-methyl-N-(tetrahydro-2H-thiopyran-4-yl)-1H-imidazole-4-carboxamide
A mixture of N-(3-bromo-4-fluorobenzyl)tetrahydro-2H-thiopyran-4-amine (1.72 g), 1-methyl-1H-imidazole-4-carboxylic acid (0.71 g), EDC.HCl (1.63 g), HOBt (0.87 g), dimethylformamide (30 mL) and triethylamine (1.8 mL) was stirred overnight at room temperature. The solvent was distilled off under reduced pressure and after extraction with ethyl acetate, the extract was washed with a saturated aqueous solution of sodium hydrogencarbonate and saturated saline, and dried over anhydrous magnesium sulfate. After filtering off the desiccant, the solvent was concentrated. The residue was purified by column chromatography (NH silica gel cartridge; ethyl acetate) to give the titled compound (1.55 g).

reactant | N-(3-bromo-4-fluorobenzyl)tetrahydro-2H-thiopyran-4-amine | 1.72 g | BrC=1C=C(CNC2CCSCC2)C=CC1F | C12H15BrFNS
reactant | 1-methyl-1H-imidazole-4-carboxylic acid | 0.71 g | CN1C=NC(=C1)C(=O)O | C5H6N2O2
reactant | EDC.HCl | 1.63 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.87 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | triethylamine | 1.8 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | N-(3-Bromo-4-fluorobenzyl)-1-methyl-N-(tetrahydro-2H-thiopyran-4-yl)-1H-imidazole-4-carboxamide | 1.55 g | BrC=1C=C(CN(C(=O)C=2N=CN(C2)C)C2CCSCC2)C=CC1F | C17H19BrFN3OS
